Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anorexia
 
Major Surgical or Invasive Procedure:
Upper GI endoscopy

 
History of Present Illness:
History of Present Illness:  
___ year old man with history of colon adenocarcinoma T3 N0 M0,
s/p right hemicolectomy ___ hypertension, possible dementia,
presenting with lethargy, anorexia, lower extremity edema for
several weeks. Lives alone, but son checks in on him frequently
and he has home health aide that comes 5 times a week. He
requires help for many ADLs including cook, cleaning, finances,
getting into shower, but is able to dress himself and go up and
down stairs. He has poor short term memory at baseline for the
past several years; son does not think he has been formally
diagnosed with dementia however. His son noted that the patient
started having trouble going up stairs several weeks ago, has 
had
less strength in the legs, and poor appetite. He has been
gradually more lethargic and more forgetful. Son has noted
bilateral ankle edema. Patient denies any symptoms, although son
describes him as stoic. 

Seen one week ago in clinic, noted to have creatinine 3.2 from
baseline 1.4 in ___ (more recent baseline unknown). Also had
mild elevation in unconjugated bilirubin, and low vitamin D and
B12.

 
Past Medical History:
COLON CANCER ___ hemicolectomy, abscess, Stage III T3N0M0 
DEEP VENOUS THROMBOPHLEBITIS ___ 
HYPERTENSION ___ 
MEMORY LOSS ___ 
GASTROESOPHAGEAL REFLUX   
DYSPHAGIA   
B12 DEFICIENCY   
VITAMIN D DEFICIENCY   
CHRONIC KIDNEY DISEASE   
HX PROSTATE CANCER (s/p surgery ___ years ago)
 
Social History:
___
Family History:
unknown
 
Physical Exam:
Physical Exam:  
Vitals- T97.8, BP 151 / 77, P74, RR20, PO2 95 RA 
GENERAL: sleepy but arousable  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally. No conjunctival pallor or injection, 
sclera
anicteric and without injection. Moist mucous membranes, good
dentition. Oropharynx is clear.  
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales.  
BACK: no CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended; tender to 
palpation
in left lower abdomen and suprapubic region
EXTREMITIES: 2+ DP; minimal edema in the ankles bilaterally  
SKIN: No evidence of ulcers, rash or lesions suspicious for
malignancy  
NEUROLOGIC: unable to assess 

DISCHARGE EXAM:
 
Physical Exam:  
Vitals- 97.5 BP119/73 HR79 RR18 99% on RA  
GENERAL: awake and alert 
CARDIAC: . Regular rhythm, normal rate, no murmurs/rubs/gallops. 

LUNGS: Clear to auscultation bilaterally. No wheezes or 
crackles.
Neck veins flat.
BACK: no CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended; denies tenderness
in all quadrants. 
EXTREMITIES: 1+ DP; 1+ edema in feet and posterior aspect of 
legs

 
Pertinent Results:
ADMISISON

___ 10:42AM BLOOD WBC-17.4*# RBC-4.77 Hgb-15.3 Hct-45.8 
MCV-96 MCH-32.1* MCHC-33.4 RDW-14.6 RDWSD-51.6* Plt Ct-82*
___ 10:42AM BLOOD Glucose-76 UreaN-143* Creat-6.8*# Na-135 
K-5.4* Cl-92* HCO3-12* AnGap-31*
___ 10:42AM BLOOD ALT-7 AST-16 LD(LDH)-305* CK(CPK)-196 
AlkPhos-65 TotBili-1.0
___ 10:42AM BLOOD Hapto-423*
___ 07:15AM BLOOD Triglyc-113 HDL-36* CHOL/HD-2.5 
LDLcalc-30
___ 07:15AM BLOOD TSH-1.4
___ 01:11PM BLOOD ___ pO2-25* pCO2-40 pH-7.26* 
calTCO2-19* Base XS--9

PERTINENT IMAGING AND PATH

___ PATHOLOGIC DIAGNOSIS:
Esophagus, biopsy:
Fibrinopurulent exudate with entrapped markedly degenerated 
epithelial cells.
Immunostains for CMV and HSV are negative.
No fungal organisms are seen on PAS or GMS stains.

___ TTE
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Mild (1+) 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
There is an anterior space which most likely represents a 
prominent fat pad. 

IMPRESSION: No intracardiac source of thromboembolism 
identified. Mild mitral regurgitation. Preserved biventricular 
systolic function.  

___ CXR
IMPRESSION:  
No focal consolidation concerning for pneumonia. 

___ NCHCT: 
No acute intracranial process.  No evidence of intracranial 
hemorrhage. 

___  MR HEAD W/O CONTRAST 
1. Moderately degraded exam due to motion artifact. 
2. Small acute to subacute infarcts within the right middle 
frontal gyrus and right precentral gyrus.  No intracranial 
hemorrhage is identified. 
3. Probable moderate chronic small vessel disease. 
4. Moderate parenchymal volume loss, most advanced within the 
bilateral 
parietal lobes 

 
MR ___ 
1. Moderately degraded exam due to motion artifact. 
2. Small acute to subacute infarcts within the right middle 
frontal gyrus and right precentral gyrus.  No intracranial 
hemorrhage is identified. 
3. Probable moderate chronic small vessel disease. 
4. Moderate parenchymal volume loss, most advanced within the 
bilateral 
parietal lobes. 

MRA ___ and Neck ___  
Severely degraded noncontrast MRA of the head and neck.  CT 
angiogram of the head and neck is suggested, and as clinically 
warranted.  No definite large vessel occlusion. 

DISCHARGE LABS
___ 06:45AM BLOOD WBC-6.1 RBC-2.81* Hgb-8.6* Hct-26.9* 
MCV-96 MCH-30.6 MCHC-32.0 RDW-15.9* RDWSD-53.9* Plt ___
___ 06:45AM BLOOD Glucose-115* UreaN-34* Creat-1.4* Na-143 
K-4.0 Cl-109* HCO3-21* AnGap-13
___ 06:45AM BLOOD Calcium-7.5* Phos-2.2* Mg-2.1
 
Brief Hospital Course:
This is a ___ year old male with past medical history of colon 
cancer, hypertension, dementia admitted ___ with ___ 
secondary to obstructive etiology, status post foley placement, 
course complicated by new stroke and then subsequent GI bleed 
secondary to severe esophagitis, started on high dose PPI, 
restart ASA, subsequently stable, discharged to rehab today

# ___ secondary to urinary obstruction from suspected BPH 
Patient initially with confusion as below, found to have ___, 
with creatinine peaking at 6.8, with radiographic imaging of 
bilateral hydronephrosis felt to be secondary to BPH.  Patient 
had foley placed and was seen by renal and urology service.  
Renal function slowly improved over subsequent 1 week, 
stabilizing at 1.3-1.4, felt to be his baseline.  Of note, 
there several small kidney stones felt to be non-obstructive.  
Urology recommended foley remain in place until outpatient 
follow-up.  He was initiated on tamsulosin.  

# Acute metabolic encephalopathy
Patient presented with 1 week of progressive confusion, found 
to have above ___ and ___ medical problems; mental status 
slowly improved with treatment of problems mentioned elsewhere. 
 

# Stroke of R anterior cerebellar circulation 
On ___, patient was discovered to have new subtle left facial 
droop.  Noncontrast head CT revealed no acute bleeding and 
subsequent MRI ___ showed acute to subacute infarcts within 
the right middle frontal gyrus and right precentral gyrus.  He 
was seen by stroke service who recommended Aspirin and 
simvastatin initiation.  TSH and A1c were within normal limits. 
Given acute GI bleed below and goals of care conversation as 
below, carotid Doppler, CTA head were not pursued as dual 
antiplatelet therapy and carotid endarterectomy were not within 
his goals of care. Patient had physical therapy and 
Occupational Therapy consults who recommended discharge to 
rehab

# Hemorrhagic Shock secondary to severe esophagitis with 
bleeding 
# Acute blood loss anemia
On ___, patient developed acute hypotension, anemia 
(hemoglobin drop from 11.4 to 9.1 to 7.4 over 24 hours) and new 
melena.  He was transfused 2 units of packed red blood cells 
and volume resuscitated.  He was seen by GI and underwent 
emergent endoscopy showing severe diffuse esophagitis.  He was 
started on IV PPI twice daily with subsequent stabilization.  
Pt transitioned to PO PPI from IV. ASA was initially held, then 
restarted once he was hemodynamically stable. Hgb was 8.6 at 
discharge. 

# ___
Patient and family expressed with strong desire not to escalate 
care.  Primary team had multiple conversations with healthcare 
proxy ___, who clarified that patient would not want 
transfer to the ICU, invasive procedures, cardiopulmonary 
resuscitation or intubation.  Consistent with his wishes, we 
did not pursue carotid US or further imaging, as he would not 
want CEA and is not a candidate for DAPT.

# Urinary tract infection
In the setting of hypertension on ___, UA was sent which 
revealed a large leuks.  Patient was initiated on IV 
ceftriaxone for 3 day course.  Urine culture revealed E. coli, 
and he was switched to cefpedoxime until ___ to complete a 7 
day course. 

#Thrombocytopenia: Patient was noted to have thrombocytopenia 
to 72k on presentation with normal hemoglobin.  Workup 
unremarkable.  Improved with treatment of above processes.  
Felt to have been suppressed in setting of acute illness.  
Platelets were 150k at discharge.

# History of dysphagia
Recommended for thin liquids and GROUND solids by swallow 
evaluation; 

#HTN: pt was stable off medications. LVH suggestive of 
chronicity on EKG

TRANSITIONAL ISSUES
- Discharged to rehab
- Goals of care conversation as above; should patient's goals 
change, could revisit discussion regarding neuro workup; 
- Discharged with foley in place; would arrange for ___ 
urology follow-up in ___ weeks for further evaluation of his 
urinary retention
- Would repeat CBC, chem 7 in 1 week
- Continue Pantoprazole 40 mg PO Q12H indefinitely
- Pt should follow up with GI in ___ months for discussion re:
whether repeat endoscopy is indicated
- Continue cefpodoxime 200 mg PO/NG Q12H through ___ for UTI

#Contact: ___
#Code status: DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO 1X/WEEK (___) 
2. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Cefpodoxime Proxetil 200 mg PO/NG Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth q12 Disp #*3 Tablet 
Refills:*0 
4.  Docusate Sodium 100 mg PO BID:PRN constipation  
5.  Pantoprazole 40 mg PO Q12H  
6.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
7.  Senna 8.6 mg PO BID:PRN constipation  
8.  Tamsulosin 0.4 mg PO DAILY  
9.  Cyanocobalamin 1000 mcg PO DAILY  
10.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# ___ secondary to urinary obstruction from suspected BPH 
# Acute metabolic encephalopathy
# Stroke of R anterior cerebellar circulation 
# Hemorrhagic Shock secondary to severe esophagitis with 
bleeding 
# Acute blood loss anemia
# Urinary tract infection
# Thrombocytopenia
# History of dysphagia
# HTN
 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,  
 It was a pleasure to care for you at the ___ 
___. 
 
 -Why did you come to the hospital?  
You came to the hospital because you felt weak and had not eaten 
at home in a long time. 
 
-What did you receive in the hospital?  
When you arrived at the hospital, we found your kidneys were not 
working very well, so you had a catheter placed to help your 
body drain urine. You were started on a medication called 
tamsulosin (or Flomax) to help you urinate more easily.  
Additionally, we found that you had a recent small stroke, and 
you had images taken of your ___ and neck.  You were started 
on aspirin and simvastatin for your stroke.  Additionally, you 
had bleeding in your esophagus.  You got a blood transfusion for 
this, and you had a procedure called an endoscopy which showed 
diffuse bleeding.  Your blood counts remained stable after this.
 
-What should you do once you leave the hospital?  
You should take your medications as prescribed.  You should go 
to the appointments listed below.  You will need a repeat 
endoscopy to make sure there is no more bleeding.  
 
 We wish you the ___!  
 Your ___ Care Team  

 
Followup Instructions:
___